US05189054
Preparation of 3-[(Phenylsulfonyl)amino]-2-carboxy-4,6-dichloroindole
Mix 3-[(phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole (0.35 g, 0.847 mmol), tetrahydrofuran (10 mL) and water (7 mL). Add lithium hydroxide monohydrate (0.11 g, 2.54 mmol) and stir at room temperature overnight. Warm at 65° C. for 5 hours, pour into water and acidify to pH 1 with 1N hydrochloric acid. Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Recrystallize (ethyl acetate/hexane) to give the title compound (0.2 g, 61%); mp 229°-35° C. (dec).

reactant | 3-[(phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole | 0.847 mmol, 0.35 g | C1(=CC=CC=C1)S(=O)(=O)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C17H14Cl2N2O4S
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 2.54 mmol, 0.11 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | water | 7 mL | O | H2O
product | 3-[(Phenylsulfonyl)amino]-2-carboxy-4,6-dichloroindole | 0.2 g, 61% | C1(=CC=CC=C1)S(=O)(=O)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C15H10Cl2N2O4S
